* source ACDC_TEST
X_TX2         N16552 0 N16558 N14445 N14449 XFRM_NONLIN/CT-PRI PARAMS: 
+  LP1_TURNS=300 LP2_TURNS=300 LS_TURNS=10 COUPLING=.99 RP_VALUE=0.5 RS_VALUE=0.5
V_V1         N14445 N14449  AC 0
+SIN 0 220 50 0 0 0
R_R1         0 N14449  1000M TC=0,0 
R_R2         N14445 0  1000M TC=0,0 
R_R5         0 N16814  100k TC=0,0 
C_C1         0 N16814  470u  TC=0,0 
D_D1         N16552 N16814 D1N4149_1 
D_D3         N16558 N16814 D1N4149_1 
D_D4         0 N16558 D1N4149_1 
D_D5         0 N16552 D1N4149_1 
