* source AMP
I_I1         0 N14419 DC 0Adc AC 0Aac
+PULSE 0 1uA 0 100n 100n 1ms 5ms
R_R1         N14419 0  100k TC=0,0 
R_R2         N145651 N14419  100k TC=0,0 
V_V1         N145651 0 (RNDC-0.5)/5
